Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / codeine
 
Attending: ___
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year-old woman with past medical history significant for 
vertebral artery aneurysm, anxiety/depression who presents from 
___ ICU for newly diagnosed PE. She had been having ___ 
weeks of progressive dyspnea on exertion, worsening over last 
weekend with palpitations. She saw her PCP twice last week -- 
CXR showed linear atelectasis without other significant 
findings. No history of travel, recent surgeries, infection, 
clotting disorders. Work-up in ED on ___ notable for elevated 
D-dimer, followed by CTA showing saddle PE. She was admitted to 
the ICU. Work-up in ___ also notable for trop 
<0.01, pro-BNP 1268 -> 1091. EKG with SR @ 73 bpm. TWI in V1-V2. 
No ST changes. PR 200. TTE with LVEF 65%. Markedly enlarged RV 
and moderately reduced RV systolic function. Flattened 
interventricuular septum in systole consistent with RV pressure 
overload. Mildly dilated RA. Trace mitral regurgitation. Mild 
TR. Estimated RVSP increased at 58 mmHg. 

On transfer, vitals were: T 98.5 HR 86 RR 23 BP 121/67 98% on 
___ NC

On arrival to the MICU, the patient was on 2L NC with normal 
vitals, no shortness of breath, chest pain, fevers, pain, N/V/D, 
hemoptysis or extremity pain or swelling.

 
Past Medical History:
Vertebral artery aneurysm 7.5 mm
Anxiety and depression
Hypertension
GERD
 
Social History:
___
Family History:
Mother and uncle on mother's side with blood clots. Mother was 
___ yo and uncle was ___ yo and expired during anticoagulation for 
clot.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 97.9  BP: 137/78 P: 77 R: 15 O2: 96% on 2L NC
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
NECK: supple, JVP not elevated, no LAD
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops 
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly 
GU: Foley in place
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, no tenderness to palpation 
SKIN: No lesions.
NEURO: A&O x3. CN II-XII intact. Sensation, strength intact. 
ACCESS: PIVs

DISCHARGE PHYSICAL EXAM:
VS:  98.0 PO 122 / 80 71 16 94 RA
Gen: kind but slightly anxious woman appearing her stated age in 
a hospital gown, NAD
HEENT: MMM, thyromegaly, no LAD in cervical or supraclavicular 
chains.
Pulm: lungs clear to auscultation posteriorly with mildly 
increased vesicular breath sounds
CV: heart sounds distant, rrr, no mrg appreciated
Abd: soft, distended abdomen w/o TTP in all 6 quadrants.
Ext: 1+ edema at the ankles b/l, no asymmetry noted. No erythema 
or cords palpated. TTP in middle posterior aspect of L calf. 
WWP, 2+ DP and ___ pulses. No skin lesions appreciated.
CNS: slightly anxious, conversational and cooperative with 
examiner. No facial droop; soft palate rises symmetrically. 
Grossly nonfocal.
 
Pertinent Results:
ADMISSION LABS:
___ 09:00PM BLOOD ___ PTT-150* ___
___ 04:55AM BLOOD WBC-7.4 RBC-4.01 Hgb-11.1* Hct-35.8 
MCV-89 MCH-27.7 MCHC-31.0* RDW-12.3 RDWSD-40.3 Plt ___
___ 04:55AM BLOOD Glucose-107* UreaN-8 Creat-0.7 Na-142 
K-4.1 Cl-104 HCO3-27 AnGap-15
___ 04:55AM BLOOD Calcium-8.8 Phos-4.2 Mg-2.3

IMAGING:
___ TTE: The left atrium and right atrium are normal in 
cavity size. Normal left ventricular wall thickness, cavity 
size, and regional/global systolic function (biplane LVEF = 62 
%). Doppler parameters are most consistent with normal left 
ventricular diastolic function. The right ventricular cavity is 
mildly dilated with normal free wall contractility. There is 
abnormal septal motion/position consistent with right 
ventricular pressure/volume overload. The number of aortic valve 
leaflets cannot be determined. There is no aortic valve 
stenosis. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The tricuspid valve leaflets 
are mildly thickened. Moderate [2+] tricuspid regurgitation is 
seen. There is severe pulmonary artery systolic hypertension. 
There is a very small pericardial effusion. 
 IMPRESSION: 
 1) Mildly dilated right ventricular function with normal RV 
size in setting of moderate to severe elevation of RV afterload 
and moderate tricuspid regurgitation.  

___ CTA HEAD NECK: 
IMPRESSION: 
1. No acute intracranial abnormality. 
2. Unchanged 5 x 3 mm aneurysm at the origin of the left ___. 
3. Otherwise patent intracranial vasculature without significant 
stenosis, 
occlusion, or new aneurysm. 
4. Patent cervical arterial vasculature without significant 
stenosis, 
occlusion, or dissection. 
5. Segmental and subsegmental bilateral upper lobe pulmonary 
emboli, as seen on the recent prior outside hospital chest CTA. 
6. 1 mm right apical pulmonary nodule. The ___ 
guidelines for pulmonary nodule guidelines suggest no follow-up 
needed in low-risk patients. 

DISCHARGE LABS
==============
___ 06:30AM BLOOD ___
___ 06:30AM BLOOD Plt ___
___ 09:05AM BLOOD TSH-1.9
___ 09:05AM BLOOD Free T4-1.___ year-old woman with past medical history significant for 
vertebral artery aneurysm, anxiety/depression who presented from 
___ ICU for newly diagnosed submassive pulmonary embolus.

#Pulmonary embolism: Symptoms x ___ weeks, submassive PE on OSH 
CTA, no obvious provoking factors, hx of smoking ~1 pack q3 
weeks, no new lesions on chest CT to suggest lung cancer, no 
vaginal bleeding, hematochezia, skin lesions, breast masses or 
drainage. Was initiated on heparin bolus and drip, then began 
bridge to Coumadin with Lovenox. This plan was confirmed with Dr 
___ in neurosurgery. TTE was obtained, e/o mild R heart 
strain, but vitals remained stable and wanted to avoid the use 
of tPA given ___ aneurysm. Initially required 4L NC, but weaned 
to RA, amb O2 sat at time of d/c was 92-96% on RA. Continue 
enoxaparin bridge to coumadin, with tentative plan for 3 month 
course pending outpatient hypercoagulable workup. PCP to manage 
INR (confirmed).

#Ascites: small amount noticed on CT scan, likely not enough to 
tap. Liver and spleen unremarkable on imaging, may be OB/GYN 
source. Has had w/u for unclear gyn pathology started as outpt, 
but not in ___ records. Discussed with patient and she plans 
to follow-up with her OB/GYN as outpt.

#Thyromegaly: Patient reports recent weight gain, constipation, 
hair loss, etc c/f hypothyroid. Enlarged thyroid gland on exam 
though TFTs wnl. Consider thyroid u/s as outpatient.

#HTN- sBPs 130-150s throughout admission. continued home 
propranolol. please monitor BPs as outpt, if persistently 
elevated consider adding or changing BP med regimen.

#Vertebral aneurysm- pt had normal neuro exam and no headache, 
vision changes, nausea or vomiting. CTA Head/Neck was obtained 
in anticipation of outpt f/u.

#HTN: continued home propranolol

#Anxiety and Depression: continued home Xanax and Effexor

TRANSITIONAL ISSUES:
- consider hypercoagulability workup in outpatient setting for 
___ unprovoked PE
- determine duration of anticoagulation based on w/u for 
malignancy, hypercoagulability
- will f/u with PCP ___ ___ for INR check
- 1mm apical pulmonary nodule. Consider f/u imaging given 
history of smoking. 
- outpt NSG f/u for ___ aneurysm (CTA head and neck obtained)
- outpt OB/GYN f/u for uterine biopsy and evaluation of ascites
- consider thyroid u/s for thyromegaly on exam
- mild hypertension this admission. Continue to monitor.
- added pantoprazole for GERD
# Communication/HCP: Daughter, ___ ___  
# Code: Full Code (confirmed) 

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 1 mg PO QHS 
2. ALPRAZolam 1 mg PO DAILY:PRN anxiety 
3. Venlafaxine 75 mg PO DAILY 
4. Propranolol 20 mg PO BID 
5. Restasis 0.05 % ophthalmic QAM:PRN 

 
Discharge Medications:
1.  Enoxaparin Sodium 80 mg SC Q12 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC q12 hrs Disp #*28 Syringe 
Refills:*0 
2.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth QAM Disp #*30 Tablet 
Refills:*0 
3.  Warfarin 5 mg PO DAILY16  
4.  ALPRAZolam 1 mg PO QHS  
5.  ALPRAZolam 1 mg PO DAILY:PRN anxiety  
6.  Propranolol 20 mg PO BID  
7.  Restasis 0.05 % ophthalmic QAM:PRN  
8.  Venlafaxine 75 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Pulmonary Embolism

SECONDARY DIAGNOSIS:
=====================
Cerebral aneurysm, nonruptured
Major depression disorder with anxious features
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital due to difficulty breathing 
due to a blood clot in your lungs.

What was done during this hospitalization?
- We took a picture of your chest using a CT scan, which showed 
a blood clot in your lungs.
- We took pictures of your heart using ultrasound, which showed 
that the blood clot was making it more difficult for your heart 
to pump.
- We took a picture of your head and neck using a CT scan to 
evaluate your aneurysm in preparation for your next appointment 
with your neurosurgery team.
- We gave ___ oxygen and blood thinners for your blood clot: 
first with intravenous heparin, and now with injectable heparin 
(brand name ___ and warfarin (brand name ___.

What should ___ do now that ___ are leaving the hospital?
- It is important that ___ continue to take all of your 
medications as prescribed, including warfarin and injectable 
heparin (Lovenox). 
- ___ will continue to take injectable heparin (Lovenox) until 
your warfarin level is high enough.
- ___ will continue to take warfarin (brand name ___ for 
at least 3 months after leaving the hospital.
- Please look below for information about scheduling follow-up 
appointments with your new primary care doctor and specialists 
in:
--Hematology: to monitor ___ while ___ take the blood-thinning 
medication warfarin.
--Endocrinology: to evaluate your enlarged thyroid.
--Obstetrics & Gynecology: to perform a uterine biopsy and 
evaluate your abdominal fluid.
--Neurosurgery: to discuss management of your aneurysm with Dr. 
___.

It was a pleasure taking care of ___.

Sincerely,
Your Care Team at ___
 
Followup Instructions:
___